US05145611
Ethyl 8-methylsulphonyl-2-(4-methylphenylsulphonyl)-octanoate.
A mixture of 4.0 g. (10.7 mmole) ethyl 8-methylthio-2-(4-methylphenylsulphonyl)-octanoate, 5.35 ml of a 4 molar solution of trifluoroperacetic acid in trifluoroacetic acid and 7.5 ml. trifluoroacetic acid is stirred for 4 hours at 0° c. The solvent is then distilled off in a vacuum and the residue taken up in diethyl ether. This solution is washed with aqueous sodium hydrogen carbonate, dried and evaporated. The residue is chromatographed with a mixture of toluene and dioxan (5:1 v/v) on silica gel to give 3.2 g. (60% of theory) ethyl 8-methylsylphonyl-2-(4-methylphenylsulphonyl-octanoate in the form of a colourless oil.

reactant | ethyl 8-methylthio-2-(4-methylphenylsulphonyl)-octanoate | 10.7 mmole | CSCCCCCCC(C(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)C | C18H28O4S2
reactant | trifluoroperacetic acid | FC(C(=O)OO)(F)F | C2HF3O3
reactant | 4-methylphenylsulphonyl-octanoate | CC(CC(C(=O)[O-])S(=O)(=O)C1=CC=CC=C1)CCCC
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Ethyl 8-methylsulphonyl-2-(4-methylphenylsulphonyl)-octanoate | CS(=O)(=O)CCCCCCC(C(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)C | C18H28O6S2
